US07642264B2
3-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide was prepared from 4-(3,4-dichloro-phenyl)-2-(2-chloro-pyridin-4-yl)-6-methyl-pyrimidine (example E.63) (0.35 g, 1.0 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.31 g, 1.2 mmol) according to the general procedure VI. Obtained as a light brown solid (0.54 g), which was subsequently deprotected.

reactant | 4-(3,4-dichloro-phenyl)-2-(2-chloro-pyridin-4-yl)-6-methyl-pyrimidine | 1.0 mmol, 0.35 g | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)C1=CC(=NC=C1)Cl | C16H10Cl3N3
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 1.2 mmol, 0.31 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C26H24Cl2N4O2S
